US08895761B2
2,2,6-Trimethylpyran-3,5-dione (1 g, 6.4 mmol) and 4-dimethylaminopyridine (3.9 g, 32 mmol) are added to a mixture of chloroform (20 ml) and toluene (5 ml). The reaction mixture is flushed with nitrogen for 15 minutes at ambient temperature. 4-Bromo-2-ethylphenyllead triacetate (4.3 g, 7.57 mmol) is added in one portion and the reaction mixture is stirred and heated to 80° C. (pre-heated oil bath) under an atmosphere of nitrogen for 1 hour. The reaction mixture is cooled to room temperature, acidified to pH 1 with 2N aqueous hydrochloric acid, filtered through a plug of diatomaceous earth and the two phases are separated. The aqueous phase is extracted with chloroform (2×25 ml), the organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(4-bromo-2-ethylphenyl)-2,2,6-trimethylpyran-3,5-dione as a white solid (0.5 g).

reactant | 2,2,6-Trimethylpyran-3,5-dione | 6.4 mmol, 1 g | CC1(OC(C(CC1=O)=O)C)C | C8H12O3
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-Bromo-2-ethylphenyllead triacetate | 7.57 mmol, 4.3 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC1=CC(=C(C=C1)[Pb+3])CC
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 32 mmol, 3.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-bromo-2-ethylphenyl)-2,2,6-trimethylpyran-3,5-dione | 0.5 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)C)(C)C)=O)CC | C16H19BrO3
